US08058300B2
Step 2: N-{1-[4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarbonyl}-methanesulfonamide:
Prepared according to the procedure described in Example 2, Step 4 using N-[1-(4-bromo-phenyl)-cyclopropanecarbonyl]-methanesulfonamide and bis(pinacolato)diboron.

reactant | N-[1-(4-bromo-phenyl)-cyclopropanecarbonyl]-methanesulfonamide | BrC1=CC=C(C=C1)C1(CC1)C(=O)NS(=O)(=O)C | C11H12BrNO3S
reactant | bis(pinacolato)diboron | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
product | N-{1-[4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarbonyl}-methanesulfonamide | CC1(OB(OC1(C)C)C1=CC=C(C=C1)C1(CC1)C(=O)NS(=O)(=O)C)C | C17H24BNO5S
